US07122545B2
19.6 g 2-Thiopheneacetic acid and 24.8 g 1,1′-carbonyl-diimidazole in 150 ml DMF were stirred at 0–4° C. for 4 hours. 14.2 ml methyl isocyanoacatate were added and stirring was continued over night at room temperature. Water was added and the mixture was extracted with ethylacetate. Chromatography on silicagel with ethylacetate/hexane 4:6 yielded 2.01 g (7%) 5-thiophen-2-ylmethyl-oxazole-4-carboxylic acid methyl ester as a yellow solid; MS (EI): m/e=223 (M+16%), 191 (M-CH2OH, 100%), 163 (10%), 136 (20%).

reactant | 2-Thiopheneacetic acid | 19.6 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | 1,1′-carbonyl-diimidazole | 24.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | O | H2O
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-thiophen-2-ylmethyl-oxazole-4-carboxylic acid methyl ester | 2.01 g, 7% | COC(=O)C=1N=COC1CC=1SC=CC1 | C10H9NO3S
